US07906517B2
(2-{[(3,5-Bis-trifluoromethyl-benzyl)-(5-bromo-pyrimidin-2-yl)-amino]-methyl}-4-trifluoromethyl-phenyl)-methanol (225 mg) is dissolved in acetone (5 ml), and thereto is added 1.94M Jones reagent (290 μl) under ice-cooling, and the mixture is stirred for 30 minutes. To the reaction solution are added sodium hydrogenesulfite, water and ethyl acetate, and the mixture is separated, and the organic layer is washed with a saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue is purified by silica gel column chromatography (chloroform:methanol=1:0→9:1) to give 2-{[(3,5-bis-trifluoromethyl-benzyl)-(5-bromo-pyrimidin-2-yl)-amino]-methyl}-4-trifluoromethyl-benzoic acid (181 mg). MS (m/z): 602/604 [M+H]+

reactant | (2-{[(3,5-Bis-trifluoromethyl-benzyl)-(5-bromo-pyrimidin-2-yl)-amino]-methyl}-4-trifluoromethyl-phenyl)-methanol | 225 mg | FC(C=1C=C(CN(C2=NC=C(C=N2)Br)CC2=C(C=CC(=C2)C(F)(F)F)CO)C=C(C1)C(F)(F)F)(F)F | C22H15BrF9N3O
reactant | Jones reagent | 1.94M, 290 μl | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
reactant | sodium | [Na] | Na
reactant | water | O | H2O
solvent | acetone | 5 ml | CC(=O)C | C3H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-{[(3,5-bis-trifluoromethyl-benzyl)-(5-bromo-pyrimidin-2-yl)-amino]-methyl}-4-trifluoromethyl-benzoic acid | 181 mg | FC(C=1C=C(CN(C2=NC=C(C=N2)Br)CC2=C(C(=O)O)C=CC(=C2)C(F)(F)F)C=C(C1)C(F)(F)F)(F)F | C22H13BrF9N3O2
